US08026261B2
Methyl iodide (11 mL, 176 mmol) was added to a suspension of 3-benzyloxy-2-methyl-5-(2,2,2-trifluoro-ethyl)-1H-pyridin-4-one (1.18 g, 4.0 mmol) and potassium carbonate (1.06 g, 7.7 mmol) in acetonitrile (25 mL). The resulting mixture was heated to reflux, and the reaction was completed within 40 min. The mixture was cooled to RT, and the solid particulates was filtered off. The filtrate was concentrated in vacuo to give a solid. The solid was taken up in dichloromethane, and the organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to afford 3-benzyloxy-1,2-dimethyl-5-(2,2,2-trifluoro-ethyl)-1H-pyridin-4-one as a colorless oil (1.3 g, 95% yield, HPLC Method 1 (Example 24), RT=15.9 min, HPLC purity (peak percent area): 98% at λ=280 nm).

reactant | Methyl iodide | 176 mmol, 11 mL | CI | CH3I
reactant | 3-benzyloxy-2-methyl-5-(2,2,2-trifluoro-ethyl)-1H-pyridin-4-one | 4.0 mmol, 1.18 g | C(C1=CC=CC=C1)OC1=C(NC=C(C1=O)CC(F)(F)F)C | C15H14F3NO2
reactant | potassium carbonate | 7.7 mmol, 1.06 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-benzyloxy-1,2-dimethyl-5-(2,2,2-trifluoro-ethyl)-1H-pyridin-4-one | 95% yield | C(C1=CC=CC=C1)OC1=C(N(C=C(C1=O)CC(F)(F)F)C)C | C16H16F3NO2
